data/oMe_Silver.jsonl
{"reaction_id": "NR-217_1-C(C)C_2-C(=O)OCC","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C(C)C)C(C(=O)OCC)[Si](C)(C)C"],"products_smiles": ["C(C(C)C)=C(C(=O)OCC)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C(C)C)C(C(=O)OCC)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)C)=C(C(=O)OCC)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
{"reaction_id": "NR-104_1-C","level": "medium","name": "Hell-Volhard-Zelinsky Reaction","reactants_smiles": ["C(C)C(=O)O","P","BrBr"],"products_smiles": ["C(C)(Br)C(=O)Br"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(C)C(=[O])[OH+]P(Br)Br","step_weight": 0,"rationale": "PBr3 activates the carboxylic acid by converting the OH into a better leaving group via formation of a phosphonium intermediate, driven by the strong P–O bond formation and good leaving ability of bromophosphates."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)C(=O)Br","step_weight": 0,"rationale": "Bromide ion displaces the activated leaving group in an SN2-like process, favored by the electrophilic carbonyl carbon and the excellent leaving group ability of the phosphonium ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)=C([OH])Br","step_weight": 0,"rationale": "Base-induced deprotonation at the α-position forms the enol, stabilized by resonance with the adjacent carbonyl, making the α-carbon nucleophilic for subsequent electrophilic attack."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C)(Br)C(=[OH+])Br","step_weight": 0,"rationale": "The electron-rich enol double bond attacks molecular bromine, with electrophilic bromination favored at the α-carbon due to resonance stabilization of the resulting carbocation intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(Br)C(=O)Br","step_weight": 0,"rationale": "Proton transfer restores the carbonyl from the enol, driven by the thermodynamic stability of the C=O bond over the C–OH form."}],"description": "In the Hell–Volhard–Zelinsky reaction, the carboxylic acid is first converted to an acyl bromide via phosphorus tribromide, enabling α-bromination through enol formation and electrophilic bromination. Subsequent tautomerization regenerates the carbonyl, yielding the α-bromoacyl bromide product efficiently."}
